2129-12-31 05:23:00 Physician Resident Progress Note
Chief Complaint: pancreatitis, ETOH withdrawal
   This morning he is less sedated and more agitated, requiring
   restraints.
   24 Hour Events:
   - tube placed for frequent stooling.
   - becoming more arousable: speaking somewhat coherently.
   - culture data from [**Hospital3 **] ([**Telephone/Fax (1) 10819**]: blood culture from
   [**12-27**]: 1 bottle with GPCs in cluster, also 2 bottles from [**12-26**] with no
   growth
   -post pyloric feeding tube placed and started tube feeds
   - PICC at least in right atrium. IV team will pull back if they have
   specific instructions re distance, CXR ordered for am
   -cdiff negative
   -vanc given again: trough 4.6
   History obtained from [**Hospital 31**] Medical records
   Allergies:
   History obtained from [**Hospital 31**] Medical recordsMorphine
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2129-12-30**] 09:00 PM
   Meropenem - [**2129-12-30**] 10:02 PM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2129-12-30**] 08:11 AM
   Hydromorphone (Dilaudid) - [**2129-12-31**] 12:02 AM
   Heparin Sodium (Prophylaxis) - [**2129-12-31**] 12:08 AM
   Diazepam (Valium) - [**2129-12-31**] 04:45 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Ear, Nose, Throat: OG / NG tube
   Nutritional Support: Tube feeds
   Gastrointestinal: Diarrhea
   Psychiatric / Sleep: Agitated, Delirious
   Flowsheet Data as of  [**2129-12-31**] 05:21 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**31**] AM
   Tmax: 37.7
C (99.8
   Tcurrent: 37.5
C (99.5
   HR: 106 (99 - 117) bpm
   BP: 125/83(91) {111/53(66) - 141/95(103)} mmHg
   RR: 23 (0 - 33) insp/min
   SpO2: 95%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 71 Inch
             Total In:
                                                                  3,489 mL
                                                                    139 mL
   PO:
             TF:
                                                                     48 mL
                                                                     86 mL
   IVF:
                                                                  3,441 mL
                                                                     53 mL
   Blood products:
   Total out:
                                                                  1,435 mL
                                                                    350 mL
   Urine:
                                                                  1,435 mL
                                                                    350 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,054 mL
                                                                   -211 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 95%
   ABG: ////
   Physical Examination
   General Appearance: Well nourished, No acute distress, Anxious
   Head, Ears, Nose, Throat: NG tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Skin:  Not assessed
   Neurologic: No(t) Attentive, Responds to: Verbal stimuli, No(t)
   Oriented (to): not oriented to year or month, inattentive, Movement:
   Not assessed, Tone: Not assessed
   Labs / Radiology
   Hematology
   [1][image001.gif]   COMPLETE BLOOD COUNT
                                     WBC
                                     RBC
                                     Hgb
                                     Hct
                                     MCV
                                     MCH
                                    MCHC
                                     RDW
                                   Plt Ct
   [2][**2129-12-31**] 04:10AM
                                    22.0*
                                    4.04*
                                    12.4*
                                    34.8*
                                     86
                                    30.6
                                    35.5*
                                    12.6
                                     264
   [3][image001.gif]   RENAL & GLUCOSE
                                   Glucose
                                    UreaN
                                    Creat
                                     Na
                                      K
                                     Cl
                                    HCO3
                                    AnGap
   [4][**2129-12-31**] 04:10AM
                                   126*[1]
                                     12
                                     0.7
                                     139
                                     3.3
                                     103
                                     23
                                     16
   Ca: 8.3 Mg: 1.9 P: 3.7
   ALT: 26
   AP: 98
   Tbili: 0.9
   Alb: 3.0
   AST: 24
   LDH: 378
   Dbili:
   TProt:
   [**Doctor First Name 92**]:
   Lip: 29
   PT: 13.1
   PTT: 30.2
   INR: 1.1
                             [**2129-12-29**]  04:57 PM
                             [**2129-12-30**]  05:09 AM
   WBC
   16.8
   18.6
   Hct
   38.8
   34.3
   Plt
   283
   248
   Cr
   0.7
   0.7
   Glucose
   144
   122
   Other labs: PT / PTT / INR:14.0/30.5/1.2, ALT / AST:35/31, Alk Phos / T
   Bili:97/0.8, Amylase / Lipase:/24, Differential-Neuts:90.3 %, Lymph:6.2
   %, Mono:2.0 %, Eos:1.5 %, Lactic Acid:1.6 mmol/L, Albumin:3.1 g/dL,
   LDH:480 IU/L, Ca++:7.9 mg/dL, Mg++:1.8 mg/dL, PO4:3.7 mg/dL
   Imaging: .
   Microbiology: Data from [**Hospital1 3934**]:
   1 bottle with GPCs in cluster, also 2 bottles from [**12-26**] with no growth
   [5][**2129-12-30**]
   STOOL
   CLOSTRIDIUM DIFFICILE TOXIN A & B TEST-FINAL
   INPATIENT
   [6][**2129-12-29**]
   STOOL
   CLOSTRIDIUM DIFFICILE TOXIN A & B TEST-FINAL
   INPATIENT
   [7][**2129-12-29**]
   URINE
   URINE CULTURE-PENDING
   INPATIENT
   [8][**2129-12-29**]
   BLOOD CULTURE
   Blood Culture, Routine-PENDING
   INPATIENT
   [9][**2129-12-29**]
   BLOOD CULTURE
   Blood Culture, Routine-PENDING
   INPATIENT
   Assessment and Plan
   44Yom with acute necrotizing pancreatitis and ETOH withdrawal.
 DELIRIUM / CONFUSION
   Less over course of day. Agitated this am. Concern for withdrawal from
   ativan.
   -continue diazepam, also gave one time IV this am
   -haldol prn
 PANCREATITIS, ACUTE
   -continue antibiotics until cultures negative
   -continue IVF
   -no longer c/o pain
   -trend lipase
 ALCOHOL WITHDRAWAL (INCLUDING DELIRIUM TREMENS, DTS, SEIZURES)
   Last drink [**12-22**] or [**12-23**]
   -continue MVI, thiamine, folate
   -replete lytes
   -niacin pending
   -tapeing clonidine
Postivie blood culture at OSH
   Speciation and sensitivities pending. Cultures negative here.
   -f/u micro at OSH
   -f/u culture
   -contnue vanc and [**Last Name (un) **] for now
 .H/O CROHN'S DISEASE (REGIONAL ENTERITIS)
   stable
   ICU Care
   Nutrition:
   Peptamen 1.5 (Full) - [**2129-12-30**] 07:15 PM 20 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2129-12-29**] 04:14 PM
   20 Gauge - [**2129-12-30**] 11:15 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU
References
   1. javascript:command('LHBC','expand')
   2. JavaScript:parent.POPUP(self,%22_WEBTAG=_1%22);
   3. javascript:command('LCBA','expand')
   4. JavaScript:parent.POPUP(self,%22_WEBTAG=_7%22);
   5. JavaScript:parent.POPUP(self,%22_WEBTAG=_1%22,640,400,50,50,1);
   6. JavaScript:parent.POPUP(self,%22_WEBTAG=_2%22,640,400,50,50,1);
   7. JavaScript:parent.POPUP(self,%22_WEBTAG=_3%22,640,400,50,50,1);
   8. JavaScript:parent.POPUP(self,%22_WEBTAG=_4%22,640,400,50,50,1);
   9. JavaScript:parent.POPUP(self,%22_WEBTAG=_5%22,640,400,50,50,1);

2129-12-31 05:23:00 Physician Resident Progress Note
Chief Complaint: pancreatitis, ETOH withdrawal
   This morning he is less sedated and more agitated, requiring
   restraints.
   24 Hour Events:
   - tube placed for frequent stooling.
   - becoming more arousable: speaking somewhat coherently.
   - culture data from [**Hospital3 **] ([**Telephone/Fax (1) 10819**]: blood culture from
   [**12-27**]: 1 bottle with GPCs in cluster, also 2 bottles from [**12-26**] with no
   growth
   -post pyloric feeding tube placed and started tube feeds
   - PICC at least in right atrium. IV team will pull back if they have
   specific instructions re distance, CXR ordered for am
   -cdiff negative
   -vanc given again: trough 4.6
   History obtained from [**Hospital 31**] Medical records
   Allergies:
   History obtained from [**Hospital 31**] Medical recordsMorphine
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2129-12-30**] 09:00 PM
   Meropenem - [**2129-12-30**] 10:02 PM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2129-12-30**] 08:11 AM
   Hydromorphone (Dilaudid) - [**2129-12-31**] 12:02 AM
   Heparin Sodium (Prophylaxis) - [**2129-12-31**] 12:08 AM
   Diazepam (Valium) - [**2129-12-31**] 04:45 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Ear, Nose, Throat: OG / NG tube
   Nutritional Support: Tube feeds
   Gastrointestinal: Diarrhea
   Psychiatric / Sleep: Agitated, Delirious
   Flowsheet Data as of  [**2129-12-31**] 05:21 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**31**] AM
   Tmax: 37.7
C (99.8
   Tcurrent: 37.5
C (99.5
   HR: 106 (99 - 117) bpm
   BP: 125/83(91) {111/53(66) - 141/95(103)} mmHg
   RR: 23 (0 - 33) insp/min
   SpO2: 95%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 71 Inch
             Total In:
                                                                  3,489 mL
                                                                    139 mL
   PO:
             TF:
                                                                     48 mL
                                                                     86 mL
   IVF:
                                                                  3,441 mL
                                                                     53 mL
   Blood products:
   Total out:
                                                                  1,435 mL
                                                                    350 mL
   Urine:
                                                                  1,435 mL
                                                                    350 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,054 mL
                                                                   -211 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 95%
   ABG: ////
   Physical Examination
   General Appearance: Well nourished, No acute distress, Anxious
   Head, Ears, Nose, Throat: NG tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Skin:  Not assessed
   Neurologic: No(t) Attentive, Responds to: Verbal stimuli, No(t)
   Oriented (to): not oriented to year or month, inattentive, Movement:
   Not assessed, Tone: Not assessed
   Labs / Radiology NO LABS FROM TODAY YET
   248 K/uL
   12.4 g/dL
   122 mg/dL
   0.7 mg/dL
   22 mEq/L
   3.6 mEq/L
   10 mg/dL
   109 mEq/L
   141 mEq/L
   34.3 %
   18.6 K/uL
        [image002.jpg]
                             [**2129-12-29**]  04:57 PM
                             [**2129-12-30**]  05:09 AM
   WBC
   16.8
   18.6
   Hct
   38.8
   34.3
   Plt
   283
   248
   Cr
   0.7
   0.7
   Glucose
   144
   122
   Other labs: PT / PTT / INR:14.0/30.5/1.2, ALT / AST:35/31, Alk Phos / T
   Bili:97/0.8, Amylase / Lipase:/24, Differential-Neuts:90.3 %, Lymph:6.2
   %, Mono:2.0 %, Eos:1.5 %, Lactic Acid:1.6 mmol/L, Albumin:3.1 g/dL,
   LDH:480 IU/L, Ca++:7.9 mg/dL, Mg++:1.8 mg/dL, PO4:3.7 mg/dL
   Imaging: .
   Microbiology: Data from [**Hospital1 3934**]:
   1 bottle with GPCs in cluster, also 2 bottles from [**12-26**] with no growth
   [1][**2129-12-30**]
   STOOL
   CLOSTRIDIUM DIFFICILE TOXIN A & B TEST-FINAL
   INPATIENT
   [2][**2129-12-29**]
   STOOL
   CLOSTRIDIUM DIFFICILE TOXIN A & B TEST-FINAL
   INPATIENT
   [3][**2129-12-29**]
   URINE
   URINE CULTURE-PENDING
   INPATIENT
   [4][**2129-12-29**]
   BLOOD CULTURE
   Blood Culture, Routine-PENDING
   INPATIENT
   [5][**2129-12-29**]
   BLOOD CULTURE
   Blood Culture, Routine-PENDING
   INPATIENT
   Assessment and Plan
   44Yom with acute necrotizing pancreatitis and ETOH withdrawal.
 DELIRIUM / CONFUSION
   Less over course of day. Agitated this am. Concern for withdrawal from
   ativan.
   -continue diazepam, also gave one time IV this am
   -haldol prn
 PANCREATITIS, ACUTE
   -continue antibiotics until cultures negative
   -continue IVF
   -no longer c/o pain
   -trend lipase
 ALCOHOL WITHDRAWAL (INCLUDING DELIRIUM TREMENS, DTS, SEIZURES)
   Last drink [**12-22**] or [**12-23**]
   -continue MVI, thiamine, folate
   -replete lytes
   -niacin pending
   -tapeing clonidine
Postivie blood culture at OSH
   Speciation and sensitivities pending. Cultures negative here.
   -f/u micro at OSH
   -f/u culture
   -contnue vanc and [**Last Name (un) **] for now
 .H/O CROHN'S DISEASE (REGIONAL ENTERITIS)
   stable
   ICU Care
   Nutrition:
   Peptamen 1.5 (Full) - [**2129-12-30**] 07:15 PM 20 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2129-12-29**] 04:14 PM
   20 Gauge - [**2129-12-30**] 11:15 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU
References
   1. JavaScript:parent.POPUP(self,%22_WEBTAG=_1%22,640,400,50,50,1);
   2. JavaScript:parent.POPUP(self,%22_WEBTAG=_2%22,640,400,50,50,1);
   3. JavaScript:parent.POPUP(self,%22_WEBTAG=_3%22,640,400,50,50,1);
   4. JavaScript:parent.POPUP(self,%22_WEBTAG=_4%22,640,400,50,50,1);
   5. JavaScript:parent.POPUP(self,%22_WEBTAG=_5%22,640,400,50,50,1);

2129-12-31 05:23:00 Physician Resident Progress Note
Chief Complaint: pancreatitis, ETOH withdrawal
   24 Hour Events:
   - tube placed for frequent stooling.
   - becoming more arousable: speaking somewhat coherently.
   - culture data from [**Hospital3 **] ([**Telephone/Fax (1) 10819**]: blood culture from
   [**12-27**]: 1 bottle with GPCs in cluster, also 2 bottles from [**12-26**] with no
   growth
   -post pyloric feeding tube placed and started tube feeds
   - PICC at least in right atrium. IV team will pull back if they have
   specific instructions re distance, CXR ordered for am
   -cdiff negative
   -vanc given again: trough 4.6
   History obtained from [**Hospital 31**] Medical records
   Allergies:
   History obtained from [**Hospital 31**] Medical recordsMorphine
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2129-12-30**] 09:00 PM
   Meropenem - [**2129-12-30**] 10:02 PM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2129-12-30**] 08:11 AM
   Hydromorphone (Dilaudid) - [**2129-12-31**] 12:02 AM
   Heparin Sodium (Prophylaxis) - [**2129-12-31**] 12:08 AM
   Diazepam (Valium) - [**2129-12-31**] 04:45 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Ear, Nose, Throat: OG / NG tube
   Nutritional Support: Tube feeds
   Gastrointestinal: Diarrhea
   Psychiatric / Sleep: Agitated, Delirious
   Flowsheet Data as of  [**2129-12-31**] 05:21 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**31**] AM
   Tmax: 37.7
C (99.8
   Tcurrent: 37.5
C (99.5
   HR: 106 (99 - 117) bpm
   BP: 125/83(91) {111/53(66) - 141/95(103)} mmHg
   RR: 23 (0 - 33) insp/min
   SpO2: 95%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 71 Inch
             Total In:
                                                                  3,489 mL
                                                                    139 mL
   PO:
             TF:
                                                                     48 mL
                                                                     86 mL
   IVF:
                                                                  3,441 mL
                                                                     53 mL
   Blood products:
   Total out:
                                                                  1,435 mL
                                                                    350 mL
   Urine:
                                                                  1,435 mL
                                                                    350 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,054 mL
                                                                   -211 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 95%
   ABG: ////
   Physical Examination
   General Appearance: Well nourished, No acute distress, Anxious
   Head, Ears, Nose, Throat: NG tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Skin:  Not assessed
   Neurologic: No(t) Attentive, Responds to: Verbal stimuli, No(t)
   Oriented (to): not oriented to year or month, inattentive, Movement:
   Not assessed, Tone: Not assessed
   Labs / Radiology NO LABS FROM TODAY YET
   248 K/uL
   12.4 g/dL
   122 mg/dL
   0.7 mg/dL
   22 mEq/L
   3.6 mEq/L
   10 mg/dL
   109 mEq/L
   141 mEq/L
   34.3 %
   18.6 K/uL
        [image002.jpg]
                             [**2129-12-29**]  04:57 PM
                             [**2129-12-30**]  05:09 AM
   WBC
   16.8
   18.6
   Hct
   38.8
   34.3
   Plt
   283
   248
   Cr
   0.7
   0.7
   Glucose
   144
   122
   Other labs: PT / PTT / INR:14.0/30.5/1.2, ALT / AST:35/31, Alk Phos / T
   Bili:97/0.8, Amylase / Lipase:/24, Differential-Neuts:90.3 %, Lymph:6.2
   %, Mono:2.0 %, Eos:1.5 %, Lactic Acid:1.6 mmol/L, Albumin:3.1 g/dL,
   LDH:480 IU/L, Ca++:7.9 mg/dL, Mg++:1.8 mg/dL, PO4:3.7 mg/dL
   Imaging: .
   Microbiology: Data from [**Hospital1 3934**]:
   1 bottle with GPCs in cluster, also 2 bottles from [**12-26**] with no growth
   [1][**2129-12-30**]
   STOOL
   CLOSTRIDIUM DIFFICILE TOXIN A & B TEST-FINAL
   INPATIENT
   [2][**2129-12-29**]
   STOOL
   CLOSTRIDIUM DIFFICILE TOXIN A & B TEST-FINAL
   INPATIENT
   [3][**2129-12-29**]
   URINE
   URINE CULTURE-PENDING
   INPATIENT
   [4][**2129-12-29**]
   BLOOD CULTURE
   Blood Culture, Routine-PENDING
   INPATIENT
   [5][**2129-12-29**]
   BLOOD CULTURE
   Blood Culture, Routine-PENDING
   INPATIENT
   Assessment and Plan
 DELIRIUM / CONFUSION
 PANCREATITIS, ACUTE
 ALCOHOL WITHDRAWAL (INCLUDING DELIRIUM TREMENS, DTS, SEIZURES)
 .H/O CROHN'S DISEASE (REGIONAL ENTERITIS)
   ICU Care
   Nutrition:
   Peptamen 1.5 (Full) - [**2129-12-30**] 07:15 PM 20 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2129-12-29**] 04:14 PM
   20 Gauge - [**2129-12-30**] 11:15 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU
References
   1. JavaScript:parent.POPUP(self,%22_WEBTAG=_1%22,640,400,50,50,1);
   2. JavaScript:parent.POPUP(self,%22_WEBTAG=_2%22,640,400,50,50,1);
   3. JavaScript:parent.POPUP(self,%22_WEBTAG=_3%22,640,400,50,50,1);
   4. JavaScript:parent.POPUP(self,%22_WEBTAG=_4%22,640,400,50,50,1);
   5. JavaScript:parent.POPUP(self,%22_WEBTAG=_5%22,640,400,50,50,1);

2129-12-31 11:36:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   44 yr old EtOH abuse, Crohn's
   Admitted with nec pancreatitis, EtOH withdrawal requiring ativan drip /
   CIWA
   Had 1/4 bottles GPC in clusters [**2129-12-28**] from OSH, on vanc/[**Last Name (un) **]
   PICC line inserted too far
   24 Hour Events:
   Ativan drip d/c'd [**12-29**]
   Last drink ~[**12-22**]
   Agitated this AM - tx with valium
   Allergies:
   Morphine
   Unknown;
   Last dose of Antibiotics:
   Meropenem - [**2129-12-31**] 06:00 AM
   Vancomycin - [**2129-12-31**] 09:00 AM
   Infusions:
   Other ICU medications:
   Diazepam (Valium) - [**2129-12-31**] 04:45 AM
   Pantoprazole (Protonix) - [**2129-12-31**] 08:45 AM
   Heparin Sodium (Prophylaxis) - [**2129-12-31**] 09:00 AM
   Hydromorphone (Dilaudid) - [**2129-12-31**] 09:56 AM
   Other medications:
   Reviewed, includes folate/thiam/mvi
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2129-12-31**] 11:35 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**31**] AM
   Tmax: 37.5
C (99.5
   Tcurrent: 37.5
C (99.5
   HR: 95 (95 - 117) bpm
   BP: 105/66(75) {105/53(66) - 134/94(101)} mmHg
   RR: 28 (0 - 33) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 71 Inch
             Total In:
                                                                  3,489 mL
                                                                  1,187 mL
   PO:
             TF:
                                                                     48 mL
                                                                    212 mL
   IVF:
                                                                  3,441 mL
                                                                    975 mL
   Blood products:
   Total out:
                                                                  1,435 mL
                                                                    740 mL
   Urine:
                                                                  1,435 mL
                                                                    740 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,054 mL
                                                                    447 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 97%
   ABG: ///23/
   Physical Examination
   General Appearance: No(t) Well nourished
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Warm
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed, agitated
   Labs / Radiology
   12.4 g/dL
   264 K/uL
   126 mg/dL
   0.7 mg/dL
   23 mEq/L
   3.3 mEq/L
   12 mg/dL
   103 mEq/L
   139 mEq/L
   34.8 %
   22.0 K/uL
        [image002.jpg]
                             [**2129-12-29**]  04:57 PM
                             [**2129-12-30**]  05:09 AM
                             [**2129-12-31**]  04:10 AM
   WBC
   16.8
   18.6
   22.0
   Hct
   38.8
   34.3
   34.8
   Plt
   [**Telephone/Fax (3) 10823**]
   Cr
   0.7
   0.7
   0.7
   Glucose
   144
   122
   126
   Other labs: PT / PTT / INR:13.1/30.2/1.1, ALT / AST:26/24, Alk Phos / T
   Bili:98/0.9, Amylase / Lipase:/29, Differential-Neuts:90.3 %, Lymph:6.2
   %, Mono:2.0 %, Eos:1.5 %, Lactic Acid:1.6 mmol/L, Albumin:3.0 g/dL,
   LDH:378 IU/L, Ca++:8.3 mg/dL, Mg++:1.9 mg/dL, PO4:3.7 mg/dL
   Assessment and Plan
 DELIRIUM / CONFUSION
 PANCREATITIS, ACUTE
 ALCOHOL WITHDRAWAL (INCLUDING DELIRIUM TREMENS, DTS, SEIZURES)
 .H/O CROHN'S DISEASE (REGIONAL ENTERITIS)
   44 yr old EtOH abuse, Crohn's, admitted with necrotizing pancreatitis,
   EtOH withdrawal. Required ativan drip / CIWA
   Had 1/4 bottles GPC in clusters [**2129-12-28**] from OSH, on vanc/[**Last Name (un) **]
   Agree with plan to manage acute severe pancreatitis with supportive
   care, hydration, serial labs / exams, RUQ USG here to exclude
   obstruction. Will hold TPN and attempt post-pyloric tube for
   nutritional support. Encephalopathy likely med-related, will give
   banana bag QD, check thiamine and niacin levels, and hold benzos /
   haldol. Febrile, OSH BCX + x1 (may be contaminant) will keep him on
   vanco, get PIVs, d/c PICC, check vanco level, pan culture. Will
   transition clonidine to PNGT and wean slowly. Remainder of plan as
   outlined above.
   ICU Care
   Nutrition:
   Peptamen 1.5 (Full) - [**2129-12-31**] 10:58 AM 30 mL/hour
   Glycemic Control:  RISS
   Lines:
   PICC Line - [**2129-12-29**] 04:14 PM
   20 Gauge - [**2129-12-30**] 11:15 AM
   Prophylaxis:
   DVT:  SCH
   Stress ulcer:  PPI
   Communication: ICU consent signed Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 30 minutes
   Patient is critically ill

2129-12-31 11:36:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   44 yr old EtOH abuse, Crohn's
   Admitted with nec pancreatitis, EtOH withdrawal requiring ativan drip /
   CIWA
   Had 1/4 bottles GPC in clusters [**2129-12-28**] from OSH, on vanc/[**Last Name (un) **]
   PICC line inserted too far
   24 Hour Events:
   Ativan drip d/c'd [**12-29**]
   Last drink ~[**12-22**]
   Agitated this AM - tx with valium
   Allergies:
   Morphine
   Unknown;
   Last dose of Antibiotics:
   Meropenem - [**2129-12-31**] 06:00 AM
   Vancomycin - [**2129-12-31**] 09:00 AM
   Infusions:
   Other ICU medications:
   Diazepam (Valium) - [**2129-12-31**] 04:45 AM
   Pantoprazole (Protonix) - [**2129-12-31**] 08:45 AM
   Heparin Sodium (Prophylaxis) - [**2129-12-31**] 09:00 AM
   Hydromorphone (Dilaudid) - [**2129-12-31**] 09:56 AM
   Other medications:
   Reviewed, includes folate/thiam/mvi
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2129-12-31**] 11:35 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**31**] AM
   Tmax: 37.5
C (99.5
   Tcurrent: 37.5
C (99.5
   HR: 95 (95 - 117) bpm
   BP: 105/66(75) {105/53(66) - 134/94(101)} mmHg
   RR: 28 (0 - 33) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 71 Inch
             Total In:
                                                                  3,489 mL
                                                                  1,187 mL
   PO:
             TF:
                                                                     48 mL
                                                                    212 mL
   IVF:
                                                                  3,441 mL
                                                                    975 mL
   Blood products:
   Total out:
                                                                  1,435 mL
                                                                    740 mL
   Urine:
                                                                  1,435 mL
                                                                    740 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,054 mL
                                                                    447 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 97%
   ABG: ///23/
   Physical Examination
   General Appearance: No(t) Well nourished
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Warm
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed, agitated
   Labs / Radiology
   12.4 g/dL
   264 K/uL
   126 mg/dL
   0.7 mg/dL
   23 mEq/L
   3.3 mEq/L
   12 mg/dL
   103 mEq/L
   139 mEq/L
   34.8 %
   22.0 K/uL
        [image002.jpg]
                             [**2129-12-29**]  04:57 PM
                             [**2129-12-30**]  05:09 AM
                             [**2129-12-31**]  04:10 AM
   WBC
   16.8
   18.6
   22.0
   Hct
   38.8
   34.3
   34.8
   Plt
   [**Telephone/Fax (3) 10823**]
   Cr
   0.7
   0.7
   0.7
   Glucose
   144
   122
   126
   Other labs: PT / PTT / INR:13.1/30.2/1.1, ALT / AST:26/24, Alk Phos / T
   Bili:98/0.9, Amylase / Lipase:/29, Differential-Neuts:90.3 %, Lymph:6.2
   %, Mono:2.0 %, Eos:1.5 %, Lactic Acid:1.6 mmol/L, Albumin:3.0 g/dL,
   LDH:378 IU/L, Ca++:8.3 mg/dL, Mg++:1.9 mg/dL, PO4:3.7 mg/dL
   Assessment and Plan
 DELIRIUM / CONFUSION
 PANCREATITIS, ACUTE
 ALCOHOL WITHDRAWAL (INCLUDING DELIRIUM TREMENS, DTS, SEIZURES)
 CROHN'S DISEASE (REGIONAL ENTERITIS)
   44 yr old EtOH abuse, Crohn's, admitted with necrotizing pancreatitis,
   EtOH withdrawal. Required ativan drip / CIWA
   Had 1/4 bottles GPC in clusters [**2129-12-28**] from OSH, on vanc/[**Last Name (un) **]
   Bacteremia
 possible contaminant, need to f/u speciation from OSH, c/w
   vanc/[**Last Name (un) **]
   EtOH withdrawal -  intermittent benzos prn, keep off drip if possible
   Acute severe pancreatitis
 NPO with bowel rest, IVF
   Access
 picc inserted too far. Will need to withdraw
   Nutrition
TF via pp tube
   Encephalopathy
 likely med related
   Rest of plan as outlined in housestaff
s note.
   ICU Care
   Nutrition:
   Peptamen 1.5 (Full) - [**2129-12-31**] 10:58 AM 30 mL/hour
   Glycemic Control:  RISS
   Lines:
   PICC Line - [**2129-12-29**] 04:14 PM
   20 Gauge - [**2129-12-30**] 11:15 AM
   Prophylaxis:
   DVT:  SCH
   Stress ulcer:  PPI
   Communication: ICU consent signed Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 30 minutes
   Patient is critically ill